US05157124
1,3-Dihydro-1-methyl-3-[4-(5-methyl-1H-imidazol-1-yl)-2-butynyl]-2H-imidazol-2-one
A mixture of 1-(4-bromo-2-butynyl)-1,3-dihydro-3-methyl-2H-imidazol-2-one (4.12 g, 0.018 mol) and 1-acetyl-4-methylimidazole (4.47 g, 0.036 mol) in acetonitrile (6 mL) was heated in an oil bath (bath temperature 85° C.) for 1 hr. Methanol (20 mL) was added and, after 1 hr, the solvents were removed and the residue was partitioned between ethyl acetate and 4N NaOH solution. The ethyl acetate was removed and the residual oil was chromatographed on silica gel using methanol:chloroform as eluant to give 3.3 g of product.

reactant | 1-(4-bromo-2-butynyl)-1,3-dihydro-3-methyl-2H-imidazol-2-one | 0.018 mol, 4.12 g | BrCC#CCN1C(N(C=C1)C)=O | C8H9BrN2O
reactant | 1-acetyl-4-methylimidazole | 0.036 mol, 4.47 g | C(C)(=O)N1C=NC(=C1)C | C6H8N2O
reactant | Methanol | 20 mL | CO | CH4O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 1,3-Dihydro-1-methyl-3-[4-(5-methyl-1H-imidazol-1-yl)-2-butynyl]-2H-imidazol-2-one | 3.3 g | CN1C(N(C=C1)CC#CCN1C=NC=C1C)=O | C12H14N4O
